US07491732B2
4-Nitrophenol (5 g), methyl 2-bromoisobutyrate (5.6 mL) and K2CO3 (7.5 g) were suspended in acetone (60 mL). The yellow solution was refluxed overnight. The reaction mixture was diluted with water (150 mL) and extracted with ethyl acetate (2×100 mL). The organic layers were evaporated to give methyl 2-(4-nitrophenoxy)isobutyrate.

reactant | 4-Nitrophenol | 5 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | methyl 2-bromoisobutyrate | 5.6 mL | BrC(C(=O)OC)(C)C | C5H9BrO2
reactant | K2CO3 | 7.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
solvent | water | 150 mL | O | H2O
product | methyl 2-(4-nitrophenoxy)isobutyrate | [N+](=O)([O-])C1=CC=C(OC(C(=O)OC)(C)C)C=C1 | C11H13NO5
